US04572791
A mixture of 72.6 grams methyloctylsilane and 200 grams of 1-decene was reacted in the presence of 0.0042 gram of chlorotris(triphenylphosphine)rhodium(I) for one hour at 87°-100° C. After stripping off unreacted decene under high vacuum, followed by hydrogenation of the residue, and distillation, resulted in an 86 percent yield of methyldidecyloctylsilane having a boiling point of 200°-206° C. (0.25 mm).

reactant | methyloctylsilane | 72.6 grams | C[SiH2]CCCCCCCC | C9H22Si
reactant | 1-decene | 200 grams | C=CCCCCCCCC | C10H20
catalyst | chlorotris(triphenylphosphine)rhodium(I) | 0.0042 gram | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | methyldidecyloctylsilane | 86 percent yield | C[Si](CCCCCCCC)(CCCCCCCCCC)CCCCCCCCCC | C29H62Si
